US08476280B2
4-((alpha-S)-alpha-((2S,5R)-4-Allyl-2,5-dimethyl-1-piperazinyl)benzyl)-N,N-diethyl benzamide
A solution of 4-formyl-N,N-diethylbenzamide (51.3 g, 250 mmol), benzotriazole (29.8 g, 250 mmol) and (−)-(2R,5S)-1-allyl-2,5-dimethylpiperazine (38.6 g, 250 mmol, Chirotech Division of Dow Pharma, Cambridge, UK) in toluene (2500 mL) was heated under reflux under nitrogen with azeotropic removal of water for 2.5 h. Toluene was removed gradually via the Dean/Stark trap during this period until the residual volume of the reaction mixture was reduced to approximately 700-800 mL. The solution was diluted with anhydrous tetrahydrofuran (1000 mL), cooled to ˜0° C. in an ice/isopropanol bath, and stirred under nitrogen during the addition over ˜20 min of phenylmagnesium bromide (1.0 M in tetrahydrofuran, 500 mL, 500 mmol) through a wide-bore double-tipped needle. During the addition a suspension of magnesium salts began to form almost immediately, but did not become sufficiently thick to preclude efficient stirring. Initially the suspension was a yellow ochre in color, which persisted until about two-thirds of the Grignard reagent had been added, when the color of the reaction mixture changed rapidly to a ruddy brown. The ice bath was removed and the suspension was stirred at ambient temperature for 1.5 h, then quenched with saturated aqueous ammonium chloride solution (125 mL). The yellow suspension was stirred for 30 min, and anhydrous magnesium chloride (125 g) was added. The suspension was stirred for a further hour and filtered. The filter cake was washed with tetrahydrofuran (400 mL), and the combined filtrate and washings evaporated to a thick brown oil. The residue was partitioned between ethyl acetate (2500 mL) and aqueous sodium hydroxide solution (1.0 M, 1000 mL). The organic layer was separated and washed successively with 1M NaOH (3×1000 mL), water (3×1200 mL) and saturated aqueous sodium chloride solution (750 mL). Ethyl acetate (75 mL) was added to the partially crystallizing suspension, yielding a thick slurry of light-colored crystals in a dark mother liquor. The suspension was filtered, and the solid was washed sparingly with cold ethyl acetate and dried under vacuum at room temperature to yield a slightly off-white solid (38.31 g). The dark filtrate and washings were evaporated to a dark oil, which again partially crystallized on standing. The residue was triturated with ethyl acetate (20 mL) and filtered to yield a second crop of pale yellow crystals (4.04 g). Total yield 42.35 g, (40.4%). 1H NMR ((CD3)2SO, 500 MHz); δ 0.94 (d, J=6.2 Hz, 3H); 1.09 (d, J=6.2 Hz, 3H, partially obscured by br m, 6H); 1.80 (m, 1H); 2.09 (dd, J=11, 7 Hz, 1H); 2.50 (br m, 1H, partially obscured by DMSO); 2.72 (dd, J=11, 2.8 Hz, 1H); 2.84 (dd, J=14, 7 Hz, 1H); 3.16 (dd, J=14, 5.2 Hz, 1H); 3.28 (br m, 3H); 5.10 (s, 1H), overlapped by 5.09 (d, J=10.6 Hz, 1H); 5.16 (dd, J=17, 1.4 Hz, 1H); 5.79 (m, 1H); 7.28 (m, 5H); 7.38 (m, 2H); 7.42 (d, J=8 Hz, 2H).

reactant | 4-formyl-N,N-diethylbenzamide | 250 mmol, 51.3 g | C(=O)C1=CC=C(C(=O)N(CC)CC)C=C1 | C12H15NO2
reactant | benzotriazole | 250 mmol, 29.8 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | (−)-(2R,5S)-1-allyl-2,5-dimethylpiperazine | 250 mmol, 38.6 g | C(C=C)N1[C@@H](CN[C@H](C1)C)C | C9H18N2
reactant | phenylmagnesium bromide | 500 mmol, 1.0 M, 500 mL | C1(=CC=CC=C1)[Mg]Br
solvent | toluene | 2500 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 4-((alpha-S)-alpha-((2S,5R)-4-Allyl-2,5-dimethyl-1-piperazinyl)benzyl)-N,N-diethyl benzamide | 38.31 g | C(C=C)N1C[C@@H](N(C[C@H]1C)[C@@H](C1=CC=CC=C1)C1=CC=C(C(=O)N(CC)CC)C=C1)C | C27H37N3O
